US04888341
1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-5-methyl-6-[(3-tetrahydrofuranyl)oxy]-azirino[2',3':3,4]pyrrolo[1,2-a]indole-4,7-dione carbamate
A solution of mitomycin A (100 mg or 0.286 mmole) in 4 ml of 3-hydroxy tetrahydrofuran was stirred at room temperature and under nitrogen for 45 minutes with 500 mg of a 1.6% solution of KOH in 3-hydroxy tetrahydrofuran. The reaction mixture was decomposed with excess dry ice while immersing the flask into a water bath at room temperature. The product was isolated twice on silica gel plates. In the first isolation, the solvent was ether, which elutes 3-hydroxy tetrahydrofuran while the pink product stayed on the base line. In the second isolation a mixture of chloroform and methanol 9:1 was used as solvent. This procedure resulted in 36 mg (31%) of the desired product, having a melting point of 68°-75° C. (decomposition) and providing the following analysis:

reactant | mitomycin A | 0.286 mmole, 100 mg | CC1=C(C(=O)C2=C(C1=O)N3C[C@H]4[C@@H]([C@@]3([C@@H]2COC(=O)N)OC)N4)OC | C16H19N3O6
reactant | KOH | [OH-].[K+]
reactant | dry ice | C(=O)=O | CO2
reactant | ether | CCOCC | C4H10O
solvent | 3-hydroxy tetrahydrofuran | 4 ml | OC1COCC1 | C4H8O2
solvent | methanol | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-5-methyl-6-[(3-tetrahydrofuranyl)oxy]-azirino[2',3':3,4]pyrrolo[1,2-a]indole-4,7-dione carbamate | 36 mg, 31% | C(N)(O)=O.OCC1C2(N(C=3C(C(=C(C(C13)=O)OC1COCC1)C)=O)CC1C2N1)OC | InChI=1S/C18H22N2O6.CH3NO2/c1-8-14(22)13-12(15(23)16(8)26-9-3-4-25-7-9)10(6-21)18(24-2)17-11(19-17)5-20(13)18;2-1(3)4/h9-11,17,19,21H,3-7H2,1-2H3;2H2,(H,3,4)
